US05674856
108(a) 5'-O-(9-Phenylfluoren-9-yl)thymidine
770 mg (2.4 mmol) of 9-bromo-9-phenylfluorene were added to a solution of 242 mg (1 mmol) of thymidine in 10 ml of pyridine, and the resulting mixture was stirred at 100° C. for 8 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the concentrate was dissolved in 100 ml of methylene chloride. The solution was washed with 100 ml of a 5% w/v aqueous solution of sodium hydrogencarbonate and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 30 g of silica gel (230-400 mesh), using methylene chloride containing from 1 to 3% by volume of methanol as the eluent, to give 194.2 mg (yield 37%) of the title compound.

reactant | 9-bromo-9-phenylfluorene | 2.4 mmol, 770 mg | BrC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C19H13Br
reactant | thymidine | 1 mmol, 242 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5'-O-(9-Phenylfluoren-9-yl)thymidine | 194.2 mg, yield 37% | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C29H26N2O5
